US07300936B2
Methanesulfonic acid 4-{[N-((1R)-1-carbamoyl-3-methyl-butyl)-N-(4-chlorobenzene-sulfonyl)-amino]methyl}benzyl ester:
To a stirred solution of (2R)-2-[N-(4-chloro-benzenesulfonyl)-N-(4-hydroxymethyl-benzyl)amino]-4-methyl-pentanoic acid amide (1.5 g, 3.5 mmol) in CH2Cl2 (15 mL) cooled to 0° C. was added Et3N (0.74 mL, 5.3 mmol). A solution of methanesulfonyl chloride (0.29 mL, 3.5 mmol) in 5 mL CH2Cl2 was added dropwise and the reaction was allowed to stir at 0° C. for 1 h. The reaction mixture was diluted with 25 mL CH2Cl2, quickly washed with 1 N HCl, brine, and dried by passing the organic phase through a cotton plug. The solvent was removed in vacuo affording the title compound in quantitative yield. The resulting foam was used as is in subsequent reactions. MS (ESI), (M-95)+, 409.15 1H NMR (CDCl3) δ7.70 (d, 2H, J=8.0), 7.48 (d, 2H, J=8.0), 7.41 (d, 2H, J=8.0), 7.38 (d, 2H, J=8.0), 6.27 (br s, 1H), 5.32 (br s, 1H), 5.24 (s, 2H), 4.64 (d, 1H, Jab=16), 4.43 (d, H, Jab=16), 4.33 (t, 1H, J=6), 2.90 (s, 3H), 1.90 (m, 1H), 1.60 (m, 2H), 0.96 (d, 3H, J=7.0), 0.91 (d, 3H, J=7.0)

reactant | (2R)-2-[N-(4-chloro-benzenesulfonyl)-N-(4-hydroxymethyl-benzyl)amino]-4-methyl-pentanoic acid amide | 3.5 mmol, 1.5 g | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)CO)[C@@H](C(=O)N)CC(C)C | C20H25ClN2O4S
reactant | Et3N | 5.3 mmol, 0.74 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.5 mmol, 0.29 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 4-{[N-((1R)-1-carbamoyl-3-methyl-butyl)-N-(4-chlorobenzene-sulfonyl)-amino]methyl}benzyl ester | quantitative yield | C(N)(=O)[C@@H](CC(C)C)N(S(=O)(=O)C1=CC=C(C=C1)Cl)CC1=CC=C(COS(=O)(=O)C)C=C1 | C21H27ClN2O6S2
